US08080566B1
A 100-mL 3-necked round-bottomed flask was charged with a solution of 1-((9-Ethyl-9H-carbazol-3-yl)methyl)piperidine-3-carbonitrile (700 mg, 2.17 mmol, 1.00 equiv, 98%) in toluene (30 mL). To this solution was add AlMe3 (960 mg, 13.07 mmol, 6.02 equiv, 98%) and TMSN3 (1.52 g, 12.95 mmol, 5.97 equiv, 98%). The resulting mixture was stirred at 80° C. overnight. Upon completion, it was cooled down to room temperature and transferred into a reparatory funnel and extracted with ethyl acetate (3×50 mL). Combined organic layers were with brine and aqueous NaHCO3 (10%). The mixture was dried over anhydrous magnesium sulfate, filtered and concentrated to give the crude that was purified by preparative HPLC eluted with 1-10% MeOH in DCM affording 3-((3-(1H-tetrazol-5-yl)piperidin-1-yl)methyl)-9-ethyl-9H-carbazole as white solid (85 mg, 16%). LCMS: [M+H]+: 361. 1H NMR (DMSO-d63, 300 MHz) δ 8.15-8.10 (m, 2H), 7.62-7.57 (m, 2H), 7.47-7.43 (m, 2H), 7.22-7.18 (m, 1H), 4.47-4.40 (m, 2H), 3.92-3.82 (m, 2H), 3.26-3.16 (m, 2H), 2.98-2.94 (m, 1H), 2.37-2.31 (m, 1H), 2.04-2.00 (m, 1H), 1.74-1.57 (m, 3H), 1.32 (t, 3H).

reactant | 1-((9-Ethyl-9H-carbazol-3-yl)methyl)piperidine-3-carbonitrile | 2.17 mmol, 700 mg, 1.00 equiv | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)CN1CC(CCC1)C#N | C21H23N3
reactant | AlMe3 | 13.07 mmol, 960 mg, 6.02 equiv | C[Al](C)C
reactant | TMSN3 | 12.95 mmol, 1.52 g, 5.97 equiv | [Si](C)(C)(C)N=[N+]=[N-] | C3H9N3Si
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 3-((3-(1H-tetrazol-5-yl)piperidin-1-yl)methyl)-9-ethyl-9H-carbazole | 85 mg, 16% | N1N=NN=C1C1CN(CCC1)CC=1C=CC=2N(C3=CC=CC=C3C2C1)CC | C21H24N6
